US09108928B2
Under the nitrogen atmosphere, 10.0 g of 5-hydroxy-1H-imidazole-4-carboxamide hydrochloric acid salt dihydrate prepared according to the method of Reference Example 2 was added to 120 mL of 0.45 mol/L hydrochloric acid and dissolved therein by heating to 40 to 50° C. At 50° C., 25 mL aqueous solution containing 10.3 g of sodium acetate was added dropwise thereto. pH of the reaction mixture was 4.0. After the dropwise addition was completed, the reaction solution was cooled to room temperature and stirred for 1 hour. The crystal was collected by filtration and then washed with a mixture liquid containing 10 mL of acetone and 20 mL of water followed by 30 mL of acetone to obtain 6.1 g of 5-hydroxy-1H-imidazole-4-carboxamide.3/4 hydrate as a gray crystal. The infrared absorption spectrum (ATR method) corresponds to that of Example 4.

reactant | 5-hydroxy-1H-imidazole-4-carboxamide hydrochloric acid salt dihydrate | 10.0 g | O.O.Cl.OC1=C(N=CN1)C(=O)N
reactant | sodium acetate | 10.3 g | C(C)(=O)[O-].[Na+]
solvent | hydrochloric acid | 0.45 mol/L, 120 mL | Cl | ClH
product | 5-hydroxy-1H-imidazole-4-carboxamide | 6.1 g | OC1=C(N=CN1)C(=O)N | C4H5N3O2
